US04617307
5-p-Cyanophenyl-5-ethoxycarbonyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine
In a manner analogous to that described in example 11, reaction of 5-p-cyanophenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine with ethyl chloroformate yields the title compound.

reactant | 5-p-cyanophenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | C(#N)C1=CC=C(C=C1)C1CCCC=2N1C=NC2 | C14H13N3
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 5-p-Cyanophenyl-5-ethoxycarbonyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | C(#N)C1=CC=C(C=C1)C1(CCCC=2N1C=NC2)C(=O)OCC | C17H17N3O2
